US04322429
2,6-DICHLORO-N-(3-(4-CHLOROPHENYL)-5-ISOXAZOLYL)BENZAMIDE
3-(4-Chlorophenyl)-5-aminoisoxazole (1 gram) and 2,6-dichlorobenzoylchloride (5 grams) were placed in a 100 ml. reaction vessel and heated to near reflux for 11/2 hours. The mixture was then cooled to room temperature and treated with 25 ml. of 2 N NaOH and 25 ml. ethanol. After refluxing for 2 hours, the ethanol was slowly removed at reduced pressure. A solid precipitate was collected by filtration. The remaining solution was treated with activated charcoal, filtered, and cooled to room temperature. The aqueous solution was extracted with chloroform. The chloroform was washed with water and dried (Na2SO4). Removal of the solvent afforded an oily product which was recrystallized from ether/hexane, m.p. 208°-209° C.

reactant | 3-(4-Chlorophenyl)-5-aminoisoxazole | 1 gram | ClC1=CC=C(C=C1)C1=NOC(=C1)N | C9H7ClN2O
reactant | 2,6-dichlorobenzoylchloride | 5 grams | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,6-DICHLORO-N-(3-(4-CHLOROPHENYL)-5-ISOXAZOLYL)BENZAMIDE | ClC1=C(C(=O)NC2=CC(=NO2)C2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C16H9Cl3N2O2
